US05945382
10 g (0.053 mol) of 3', 5'-dichloroacetophenone are dissolved, at room temperature and with stirring, in 50 ml of N,N-dimethylformamide dimethyl acetal. Stirring is maintained and the reaction mixture is heated for 2 h at 90° C. The mixture is concentrated to dryness under reduced pressure. The residue is taken up in 150 ml of heptane. The orange residue is filtered to give 10.0 g (yield 77%, melting point: 100° C.) of 1-(3,5-dichlorophenyl)-3-dimethylamino-2-propen-1-one.

reactant | 3', 5'-dichloroacetophenone | 0.053 mol, 10 g | ClC=1C=C(C=C(C1)Cl)C(C)=O | C8H6Cl2O
reactant | N,N-dimethylformamide dimethyl acetal | 50 ml | COC(N(C)C)OC | C5H13NO2
product | 1-(3,5-dichlorophenyl)-3-dimethylamino-2-propen-1-one | 10.0 g, yield 77% | ClC=1C=C(C=C(C1)Cl)C(C=CN(C)C)=O | C11H11Cl2NO
